US09416101B2
4-(chlorosulfonyl)benzoic acid (500 mg, 2.27 mmol) was treated with 2-methoxy-N-methylaniline (933 mg, 6.8 mmol) using method A to give 4-(N-(2-methoxyphenyl)-N-methylsulfamoyl)benzoic acid as an off white solid. Yield: 515 mg (71%). 1H-NMR: 8.11 (d, J=8.5 Hz, 2H), 7.73 (d, J=8.5 Hz, 2H), 7.33 (ddd, J=8.5, 7.5, 1.5 Hz, 1H), 7.17 (dd, J=7.5, 1.5 Hz, 1H), 7.00-6.92 (m, 2H), 3.33 (s, 3H), 3.14 (s, 3H).

reactant | 4-(chlorosulfonyl)benzoic acid | 2.27 mmol, 500 mg | ClS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H5ClO4S
reactant | 2-methoxy-N-methylaniline | 6.8 mmol, 933 mg | COC1=C(NC)C=CC=C1 | C8H11NO
product | 4-(N-(2-methoxyphenyl)-N-methylsulfamoyl)benzoic acid | COC1=C(C=CC=C1)N(S(=O)(=O)C1=CC=C(C(=O)O)C=C1)C | C15H15NO5S
